* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : MUX_2X                                       *
* Netlisted  : Thu Oct 24 15:50:00 2024                     *
* Pegasus Version: 22.21-s012 Fri Mar 10 17:36:33 PST 2023  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_2 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_4                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_4 S_source_0 2 D_drain_1 4 B
*.DEVICECLIMB
** N=5 EP=5 FDC=0
.ends pmos1v_CDNS_4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_5                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_5 S_source_0 2 D_drain_1 4
** N=4 EP=4 FDC=1
M0 D_drain_1 2 S_source_0 4 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=9.72117 scb=0.00853087 scc=0.000206786 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_6                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_6 S_source_0 D_drain_1 3 4 B
** N=5 EP=5 FDC=1
M0 D_drain_1 3 S_source_0 B g45p1svt L=4.5e-08 W=4.8e-07 AD=6.72e-14 AS=6.72e-14 PD=1.24e-06 PS=1.24e-06 fw=4.8e-07 sa=1.4e-07 sb=1.4e-07 sca=23.3102 scb=0.0246313 scc=0.0014791 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: MUX_2X                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt MUX_2X A B Out S gnd! vdd!
** N=12 EP=6 FDC=12
X0 1 M2_M1_CDNS_1 $T=2390 1260 0 0 $X=2310 $Y=1130
X1 2 M2_M1_CDNS_1 $T=2390 2860 0 0 $X=2310 $Y=2730
X2 1 M2_M1_CDNS_1 $T=3830 1260 0 0 $X=3750 $Y=1130
X3 2 M2_M1_CDNS_1 $T=4770 2860 0 0 $X=4690 $Y=2730
X4 S M1_PO_CDNS_2 $T=670 1870 0 90 $X=550 $Y=1770
X5 4 M1_PO_CDNS_2 $T=1120 1850 0 90 $X=1000 $Y=1750
X6 A M1_PO_CDNS_2 $T=3920 1900 0 90 $X=3800 $Y=1800
X7 B M1_PO_CDNS_2 $T=4860 1910 0 90 $X=4740 $Y=1810
X8 7 M1_PO_CDNS_2 $T=6230 1520 0 90 $X=6110 $Y=1420
X9 vdd! S 4 gnd! vdd! pmos1v_CDNS_4 $T=750 2330 0 0 $X=330 $Y=2130
X10 vdd! 4 2 gnd! vdd! pmos1v_CDNS_4 $T=2140 2330 0 0 $X=1720 $Y=2130
X11 vdd! S 10 gnd! vdd! pmos1v_CDNS_4 $T=3070 2330 0 0 $X=2650 $Y=2130
X12 10 A 7 gnd! vdd! pmos1v_CDNS_4 $T=4000 2330 0 0 $X=3580 $Y=2130
X13 2 B 7 gnd! vdd! pmos1v_CDNS_4 $T=4930 2330 0 0 $X=4510 $Y=2130
X14 gnd! S 4 gnd! nmos1v_CDNS_5 $T=750 890 0 0 $X=330 $Y=690
X15 gnd! 4 1 gnd! nmos1v_CDNS_5 $T=2140 890 0 0 $X=1720 $Y=690
X16 gnd! S 11 gnd! nmos1v_CDNS_5 $T=3070 890 0 0 $X=2650 $Y=690
X17 1 A 7 gnd! nmos1v_CDNS_5 $T=4000 890 0 0 $X=3580 $Y=690
X18 11 B 7 gnd! nmos1v_CDNS_5 $T=4930 890 0 0 $X=4510 $Y=690
X19 gnd! 7 Out gnd! nmos1v_CDNS_5 $T=6310 890 0 0 $X=5890 $Y=690
X20 vdd! Out 7 gnd! vdd! pmos1v_CDNS_6 $T=6310 2070 0 0 $X=5890 $Y=1870
M0 4 S vdd! vdd! g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=17.2789 scb=0.0178533 scc=0.000435231 $X=750 $Y=2330 $dt=1
M1 2 4 vdd! vdd! g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=11.7234 scb=0.0101098 scc=0.000278382 $X=2140 $Y=2330 $dt=1
M2 10 S vdd! vdd! g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=11.7234 scb=0.0101098 scc=0.000278382 $X=3070 $Y=2330 $dt=1
M3 7 A 10 vdd! g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=11.7234 scb=0.0101098 scc=0.000278382 $X=4000 $Y=2330 $dt=1
M4 7 B 2 vdd! g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=11.7234 scb=0.0101098 scc=0.000278382 $X=4930 $Y=2330 $dt=1
.ends MUX_2X
